US05356862
N-(1,1-Dimethylethyl)-1-[tris(1-methylethyl)silyl]-1H-pyrrole-3-sulfonamide
A solution of 4.55 g (0.0151 mol) of 3-bromo-N-triisopropylsilylpyrrole in 100 mL anhydrous tetrahydrofuran (THF) under nitrogen atmosphere was cooled to -60° C. then treated with 10.4 mL of 1.6M butyllithium in hexanes (0.0166 mol) dropwise at such a rate as to keep the temperature below -60° C. After ca. 30 minutes at this temperature, liquified sulfur dioxide was added (3.9 mL, 0.090 mol). The brown solution was then warmed to room temperature, and the THF was removed under reduced pressure. The resulting light brown solid was dissolved in 100 mL acetic acid and then treated with 2.0 g (0.015 mol) N-chlorosuccinimide with cooling to keep the temperature less than 25° C. After 2 hours, the acetic acid was evaporated under reduced pressure and the residue taken up in ethyl acetate. This solution was washed successively with water, NaHCO3 solution, 5% NaHSO3 solution, NaHCO3 solution, brine, then dried with MgSO4 and evaporated in vacuo. The resulting dark brown oil residue was dissolved in methylene chloride (200 mL) and treated with 8 mL (0.075 mol) t-butylamine and then stirred for 3 days at ambient temperature. The solution was then washed with 1N HCl, dried (MgSO4), and evaporated to a dark oil. Chromatography on silica gel (10% ethyl acetate/hexanes) afforded 4.0 g of the title compound as an amber oil that solidified on standing.

reactant | 3-bromo-N-triisopropylsilylpyrrole | 0.0151 mol, 4.55 g | BrC1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C13H24BrNSi
reactant | butyllithium | 1.6M, 10.4 mL | C(CCC)[Li]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | N-chlorosuccinimide | 0.015 mol, 2.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | t-butylamine | 0.075 mol, 8 mL | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | N-(1,1-Dimethylethyl)-1-[tris(1-methylethyl)silyl]-1H-pyrrole-3-sulfonamide | 4.0 g | CC(C)(C)NS(=O)(=O)C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C17H34N2O2SSi
